US05424443
2,4-dichloro-6-fluoro-7-[N-(2,2-dimethylpropanoyl)hydrazino]benzothiazole
2.6 ml Triethylamine was added to a solution of 4.8 g 2,4-dichloro-6-fluoro-7-hydrazinobenzothiazole in 38 ml toluene. 2.4 ml Pivaloyl chloride was added dropwise and the mixture stirred for 2 hours at room temperature. It was then treated with ethyl acetate and washed with aqueous sodium hydrogen carbonate and water, dried over magnesium sulfate and concentrated. The residue was purified by column chromatography. Yield: 1.36 g=21% of theory

reactant | Triethylamine | 2.6 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-6-fluoro-7-hydrazinobenzothiazole | 4.8 g | ClC=1SC2=C(N1)C(=CC(=C2NN)F)Cl | C7H4Cl2FN3S
reactant | Pivaloyl chloride | 2.4 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 38 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4-dichloro-6-fluoro-7-[N-(2,2-dimethylpropanoyl)hydrazino]benzothiazole | ClC=1SC2=C(N1)C(=CC(=C2N(N)C(C(C)(C)C)=O)F)Cl | C12H12Cl2FN3OS
